US08053581B2
Step 4: Preparation of 4-(4-methoxy-phenyl)-5-phenylethyl-thiazol-2-ylamine
A procedure similar to step 5 of Example 6 was used. 2-bromo-1-(4-methoxy-phenyl)-4-phenyl-butan-1-one prepared in the step 3, thiourea and anhydrous sodium acetate were used as starting materials, refluxed for 3 hours, followed by post-treatment to give a crude product, which was recrystallized with anhydrous ethanol to obtain a product as a white solid in a yield of 85.9%, mp: 143-144 └. 1H-NMR (CDCl3, 400 MHz) δ: 2.90 (2H, t, J=7.60 Hz, CH2), 3.05 (2H, t, J=7.60 Hz, CH2), 3.82 (3H, s, OCH3), 4.99 (2H, br, NH2), 6.89 (2H, d, J=8.40 Hz, ArH), 7.12˜7.30 (5H, m, ArH), 7.35 (2H, d, J=8.40 Hz, ArH); EI-MS m/e (%): 310.1 (M+, 23), 219.1 (100), 177.1 (39); HREI-MS Calcd. for C18H18N2OS: 310.1140. found: 310.1140. Anal. Calcd. for C18H18N2OS: C, 69.65; H, 5.84; N, 9.02. found: C, 69.74; H, 5.86; N, 9.03.

reactant | 2-bromo-1-(4-methoxy-phenyl)-4-phenyl-butan-1-one | BrC(C(=O)C1=CC=C(C=C1)OC)CCC1=CC=CC=C1 | C17H17BrO2
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 4-(4-methoxy-phenyl)-5-phenylethyl-thiazol-2-ylamine | yield of 85.9% | COC1=CC=C(C=C1)C=1N=C(SC1CCC1=CC=CC=C1)N | C18H18N2OS
